US08957062B2
Step C: N-hydroxy-4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboximidamide
4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carbonitrile (4.1 g, 21.10 mmol) was dissolved in Ethanol (60 ml) and hydroxylamine (5.17 ml, 84 mmol) (50% water solution) was added dropwise. The mixture was heated at 65° C. for 1 h. The mixture was evaporated to afford the desired product which was used for the next step without further purification. Rf was 0 @ 70% EtOAc in hexanes (blue spot on CAM stain)

reactant | 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carbonitrile | 21.10 mmol, 4.1 g | OCC[C@H]1[C@H](C1)C1CCN(CC1)C#N | C11H18N2O
reactant | hydroxylamine | 84 mmol, 5.17 ml | NO | H3NO
solvent | Ethanol | 60 ml | C(C)O | C2H6O
product | N-hydroxy-4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboximidamide | ONC(=N)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C11H21N3O2
